US05061794
1.0 g (1.09 mmol) of benzhydryl 3-iodomethyl-7β-[2-metoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn-isomer) was dissolved in 10.0 ml of N,N-dimethylformamide, and 0.30 g (1.33 mmol) of 5-(3,4-dihydroxyphenyl)-2-mercapto-1,3,4-thiadiazole was added thereto. The mixture was stirred at room temperature for 2 hours. To the reaction solution 1.0 ml of acetic anhydride and 0.8 ml of pyridine were added and stirred at room temperature for 1 hour. The solvent was distilled. off under reduced pressure, and the residue was purified by silica gel cloumn chromatography (Wakogel C-300 ethyl acetate:hexane =3:1) to obtain 0.73 g (yield: 60%) of benzhydryl 3-[5-(3,4-diacetoxyphenyl)-1,3, 4-thiadiazol-2-yl]thiomethyl-7β-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate as a foamy substance.

reactant | benzhydryl 3-iodomethyl-7β-[2-metoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 1.09 mmol, 1.0 g | ICC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC)=O)=O | C46H38IN5O5S2
reactant | 5-(3,4-dihydroxyphenyl)-2-mercapto-1,3,4-thiadiazole | 1.33 mmol, 0.30 g | OC=1C=C(C=CC1O)C1=NN=C(S1)S | C8H6N2O2S2
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
product | benzhydryl 3-[5-(3,4-diacetoxyphenyl)-1,3, 4-thiadiazol-2-yl]thiomethyl-7β-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate | 0.73 g, yield: 60% | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC)=O)=O | C58H47N7O9S4
